US07776857B2
In a 150 mL sealed tube, dissolved N-(2,4-dimethoxybenzyl)-4-phenylphthalazin-1-amine (3.00 g, 8.1 mmol) in acetic acid (40 mL). Hydrobromic acid (48% aqueous)(2.6 mL, 24 mmol) was added and the tube was stirred at 90° C. for 3 h. The solution was cooled to RT, and slowly poured into water, which caused a pink solid to crash out. The solid was filtered and rinsed with water. The product containing filtrate was slowly poured into saturated sodium carbonate. The aqueous phase was extracted with DCM, washed twice with water, dried with Na2SO4, filtered through fritted funnel, and concentrated to yield 4-phenylphthalazin-1-amine as light yellow solid. MS [M+H]=222; Calc'd 221.3 for C14H11N3.

reactant | N-(2,4-dimethoxybenzyl)-4-phenylphthalazin-1-amine | 8.1 mmol, 3.00 g | COC1=C(CNC2=NN=C(C3=CC=CC=C23)C2=CC=CC=C2)C=CC(=C1)OC | C23H21N3O2
reactant | Hydrobromic acid | 24 mmol, 2.6 mL | Br | BrH
reactant | water | O | H2O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 4-phenylphthalazin-1-amine | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N | C14H11N3
